US20010053851A1
A solution of 3-cyclopentyl-2-[4-(3-hydroxy-3-methyl-pent-1-ynyl)-phenyl]-propionic acid methyl ester (656 mg, 1.99 mmol) in methanol (10 mL) and water (10 mL) was treated with lithium hydroxide (920 mg, 21.9 mmol). The reaction mixture was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was diluted with water (40 mL). This solution was acidified to pH=2 with concentrated hydrochloric acid and then extracted with ethyl acetate (2×40 mL). The combined organic extracts were then washed with a half-saturated sodium chloride solution (1×40 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-[4-(3-hydroxy-3-methyl-pent-1-ynyl)-phenyl]-propionic acid (570 mg, 91%) as a tan solid: mp 91-94° C.; EI-HRMS m/e calcd for C20H26O3 (M+) 314.1881, found 314.1872.

reactant | 3-cyclopentyl-2-[4-(3-hydroxy-3-methyl-pent-1-ynyl)-phenyl]-propionic acid methyl ester | 1.99 mmol, 656 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CC(CC)(C)O)=O | C21H28O3
reactant | lithium hydroxide | 21.9 mmol, 920 mg | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-cyclopentyl-2-[4-(3-hydroxy-3-methyl-pent-1-ynyl)-phenyl]-propionic acid | 570 mg, 91% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CC(CC)(C)O | C20H26O3
